US06476219B1
To a 5 liter 1-necked round bottomed flask equipped with mechanical stirrer was added 502.5 grams (1.65 mole) of 3-pentadecylphenol, 200 grams (1.45 mole) of potassium carbonate, and 2,000 grams of 1-methyl-2-pyrrolidinone (anhydrous; obtained from Aldrich Chemical Co.). The mixture was heated to 90° C. for 2 hours using a heating mantle. The reaction mixture turned dark brown. Thereafter, 250.0 grams (1.45 mole) of 4-nitrophthalonitrile (obtained from Sigma-Aldrich) was added and the mixture was maintained at 90° C. for an additional 2 hours. The hot reaction mixture was then quenched by slowly pouring it into 3 liters of deionized water. The precipitated beige suspension was stirred until it had cooled to room temperature, then was filtered. The solid was then reslurried and filtered, using about 6 liter portions of deionized water, until the water used to wash the solid product was of neutral pH. The solid was then twice reslurried in 4 liters of methanol, filtered, and vacuum dried at 40° C. to give 519.8 grams (84 percent yield) of 4-(3-pentadecyl) phenoxyphthalonitrile. The purity of this material as measured by HPLC was more than 89 percent.

reactant | 3-pentadecylphenol | 1.65 mole, 502.5 grams | C(CCCCCCCCCCCCCC)C=1C=C(C=CC1)O | C21H36O
reactant | potassium carbonate | 1.45 mole, 200 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrophthalonitrile | 1.45 mole, 250.0 grams | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | 1-methyl-2-pyrrolidinone | 2,000 grams | CN1C(CCC1)=O | C5H9NO
product | 4-(3-pentadecyl) phenoxyphthalonitrile | 519.8 grams, 84 percent yield | CCC(CCCCCCCCCCCC)C1=CC=C(OC2=C(C(C#N)=CC=C2)C#N)C=C1 | C29H38N2O
